US04125732
Methyl(p-chlorophenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
A mixture of 2.57 g of p-chlorophenol, 0.72 g of 60% sodium hydride-oil dispersion and 25 ml of tetrahydrofuran is stirred at room temperature for 90 minutes. To the mixture under argon is added 3.32 g of potassium iodide, 1 ml of hexamethylphosphoramide, and dropwise a solution of 7.5 g of methyl bromo{p-[3-(p-chlorphenoxy)propoxy]phenyl}acetate. The mixture is stirred at room temperature for 1 hour and refluxed for 18 hours. The mixture is poured into 500 ml of ice-water containing 1.2 ml of acetic acid. The mixture is extracted with ether and the extracts washed with saturated sodium chloride solution and dried (MgSO4). The solvent is removed under reduced pressure to give 8.0 g of product as an oil. Chilling gives crystals. Recrystallization from 90% ethanol gives white crystals, mp 80°-82° C.

reactant | p-chlorophenol | 2.57 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | potassium iodide | 3.32 g | [I-].[K+]
reactant | methyl bromo{p-[3-(p-chlorphenoxy)propoxy]phenyl}acetate | 7.5 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | hexamethylphosphoramide | 1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | Methyl(p-chlorophenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 8.0 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)Cl)=O | C24H22Cl2O5
